US07459552B2
1-(2-Hydroxyethyl)piperazine (1.95 g, 15.0 mmol) and 2-bromo-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methylpyridin-3-yl]acetamide (5.00 g, 12.5 mmol) were dissolved in acetonitrile (30 mL). Potassium carbonate (2.25 g, 16.3 mmol) was added to the solution, followed by stirring for 5 hours at room temperature. The reaction mixture was dilluted with water, followed by extraction with ethyl acetate. The organic layer was sequentially washed with water and saturated brine, followed by drying over sodium sulfate anhydrate and concentration under reduced pressure. The obtained residue was purified through silica gel column chromatography (eluent: ammonia-saturated methanol/chloroform=1/20), to thereby yield 5.40 g of N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methylpyridin-3-yl]-2-[4-(2-hydroxyethyl)piperazin-1-yl]acetamide as colorless crystals (yield 91%).

reactant | 1-(2-Hydroxyethyl)piperazine | 15.0 mmol, 1.95 g | OCCN1CCNCC1 | C6H14N2O
reactant | 2-bromo-N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methylpyridin-3-yl]acetamide | 12.5 mmol, 5.00 g | BrCC(=O)NC=1C(=NC(=CC1OCC(F)(F)F)C)OCC(F)(F)F | C12H11BrF6N2O3
reactant | Potassium carbonate | 16.3 mmol, 2.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | N-[2,4-bis(2,2,2-trifluoroethoxy)-6-methylpyridin-3-yl]-2-[4-(2-hydroxyethyl)piperazin-1-yl]acetamide | yield 5.40 g, yield 91% | FC(COC1=NC(=CC(=C1NC(CN1CCN(CC1)CCO)=O)OCC(F)(F)F)C)(F)F | C18H24F6N4O4
